US07700594B2
To a solution of 1-bromo-2-fluoro-3-nitrobenzene (2.5 g, 11.3 mmol) in THF (25 mL) at −50° C. was added vinyl magnesium bromide (34 mL, 34 mmol) and the mixture was stirred at −40° C. for 1 h. The reaction was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure to yield a gum, which was purified by column chromatography over silica gel eluting with EtOAc/hexane to afford pure 6-bromo-7-fluoro-1H-indole. 1H NMR (400 MHz, CDCl3) δ=6.53-6.62 (m, 1H), 7.16-7.25 (m, 2H), 7.29 (d, J=8.34 Hz, 1H) and 8.36 (br. s., 1H); MS (ES+): m/z 214.08 [MH+].

reactant | 1-bromo-2-fluoro-3-nitrobenzene | 11.3 mmol, 2.5 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | vinyl magnesium bromide | 34 mmol, 34 mL | C(=C)[Mg]Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-bromo-7-fluoro-1H-indole | BrC1=CC=C2C=CNC2=C1F | C8H5BrFN
